US05135838
Synthesis of 2,6-Dinitrobenzyl 4-(trifluoromethyl)benzenesulfonate
The procedure of Example 11 was employed except that the reagents were 2.00 g of 2,6-dinitrobenzyl alcohol, 2.71 g of 4-(trifluoromethyl)benzenesulfonyl chloride and 2.2 mL of dicylohexylamine. The crude product was recrystallized using carbon tetrachloride/chloroform to give 1.55 g (38% yield) of white crystals.

reactant | 2,6-dinitrobenzyl alcohol | 2.00 g | [N+](=O)([O-])C1=C(CO)C(=CC=C1)[N+](=O)[O-] | C7H6N2O5
reactant | 4-(trifluoromethyl)benzenesulfonyl chloride | 2.71 g | FC(C1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
reactant | dicylohexylamine | 2.2 mL | C1(CCCCC1)NC1CCCCC1 | C12H23N
product | 2,6-Dinitrobenzyl 4-(trifluoromethyl)benzenesulfonate | 1.55 g, 38% yield | FC(C1=CC=C(C=C1)S(=O)(=O)OCC1=C(C=CC=C1[N+](=O)[O-])[N+](=O)[O-])(F)F | C14H9F3N2O7S
